US07456176B2
7-bromo-5-methyl-benzo[1,2,4]triazin-3-ylamine (33.47 mmol, 1.0 equiv), 1-chloro-4-methoxy-2-boronic acid (50.21 mmol, 1.5 equiv), Pd(PPH3)4 (3.347 mmol, 0.1 equiv), and Na2CO3 (133.9 mmol, 4.0 equiv) were dissolved in DME/EtOH/water 6:1:1 and refluxed at 100° C. under an argon blanket for 4 h. The reaction was cooled to room temperature, diluted with 100 mL DCM and filtered. The precipitate that was recovered was suspended in water, filtered and rinsed with ether. The precipitate afforded 7-(2-chloro-5-methoxy-phenyl)-5-methyl-benzo[1,2,4]triazin-3-ylamine, as a green solid (8.37 g, 84% yield). Rf=0.85 (9:1 DCM/MeOH). 1H NMR (DMSO-d6): δ 3.35 (s, 6H), 7.01 (dd, J=8.8 Hz, J=3.0, 1H), 7.09 (d, J=3.0 Hz, 1H), 7.48 (d, J=8.8 Hz, 1H), 7.75 (bm, 2H). MS (ES+) m/z=303. LC retention time 3.03 min.

reactant | 7-bromo-5-methyl-benzo[1,2,4]triazin-3-ylamine | 33.47 mmol, 1.0 equiv | BrC1=CC2=C(N=C(N=N2)N)C(=C1)C | C8H7BrN4
reactant | Na2CO3 | 133.9 mmol, 4.0 equiv | C(=O)([O-])[O-].[Na+].[Na+]
reactant | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | DME EtOH water | COCCOC.CCO.O
catalyst | Pd(PPH3)4 | 3.347 mmol, 0.1 equiv | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
product | 7-(2-chloro-5-methoxy-phenyl)-5-methyl-benzo[1,2,4]triazin-3-ylamine | ClC1=C(C=C(C=C1)OC)C1=CC2=C(N=C(N=N2)N)C(=C1)C | C15H13ClN4O
